### ISSUE TITLE
Is it necessary that there are finitely many rows?

### ISSUE THREAD

**Issue by madvorak** [Ivan-Sergeyev/seymour#143]
Currently, it comes down to 3 places:

Lemma `Matrix.exists_standardRepr_isBase_isTotallyUnimodular_aux` performs induction on the size of the base (natural number).

Lemma `StandardRepr.toMatroid_isBase_X` uses a lemma that a matrix with more rows than cols cannot have linearly independent rows (again, natural numbers).

Lemma `support_eq_support_of_same_matroid_aux` assumes finiteness in some summations.

**Comment by Ivan-Sergeyev** [comment]
The "[Axioms for infinite matroids](https://www.sciencedirect.com/science/article/pii/S0001870813000261?via%3Dihub)" paper mentions that Seymour's decomposition theorem has been generalized to infinite matroids. Check the references mentioned in the last paragraph on page 3: "Since our paper was first made available in preprint form...".

**Comment by madvorak** [comment]
Somebody messaged me:
```
import Mathlib.Tactic

variable {α μ : Type} [AddCommMonoid μ] [Module ℚ μ]

lemma in_submoduleSpan_range (f : α → μ) (a : α) :
    f a ∈ Submodule.span ℚ (Set.range f) := by
  apply SetLike.mem_of_subset
  · apply Submodule.subset_span
  · simp

example {f : α → μ} {β : Type} {B : Basis β ℚ (Submodule.span ℚ (Set.range f))}
    (hI : LinearIndependent ℚ (fun a : α => B.repr ⟨f a, in_submoduleSpan_range f a⟩)) :
    LinearIndependent ℚ (fun a : α => fun b : β => B.repr ⟨f a, in_submoduleSpan_range f a⟩ b) :=
  let coeF : (β →₀ ℚ) →ₗ[ℚ] (β → ℚ) :=
    { toFun    := fun g => g,
      map_add' := by intro g h; rfl,
      map_smul' := by intro r g; rfl }
  coeF.linearIndependent_iff (LinearMap.ker_eq_bot.mpr DFunLike.coe_injective') |>.mpr hI
```

**Comment by madvorak** [comment]
In the settings of our project:
```
import Seymour.Basic.Basic

variable {α μ : Type} [AddCommMonoid μ] [Module ℚ μ]

lemma in_submoduleSpan_range (f : α → μ) (a : α) :
    f a ∈ Submodule.span ℚ (Set.range f) := by
  apply SetLike.mem_of_subset
  · apply Submodule.subset_span
  · simp

variable {β : Type} {f : α → μ} {B : Basis β ℚ (Submodule.span ℚ f.range)} {I : Set α}

lemma auxxx_aux (hI : LinearIndepOn ℚ (fun a : α => B.repr ⟨f a, in_submoduleSpan_range f a⟩) I) :
    LinearIndepOn ℚ (fun a : α => fun b : β => B.repr ⟨f a, in_submoduleSpan_range f a⟩ b) I :=
  let c : (β →₀ ℚ) →ₗ[ℚ] (β → ℚ) := ⟨⟨Finsupp.toFun, ↓↓rfl⟩, ↓↓rfl⟩
  (c.linearIndependent_iff (LinearMap.ker_eq_bot.← DFunLike.coe_injective')).← hI

lemma auxxx (hI : LinearIndepOn ℚ (B.repr.toLinearMap ∘ (fun a : α => ⟨f a, in_submoduleSpan_range f a⟩)) I) :
    LinearIndepOn ℚ (fun a : α => fun b : β => B.repr ⟨f a, in_submoduleSpan_range f a⟩ b) I := by
  apply auxxx_aux
  exact hI
```

**Comment by madvorak** [comment]
Again, an anonymous contributor:
```
import Mathlib.Tactic

variable {α μ : Type} [AddCommMonoid μ] [Module ℚ μ]

lemma in_submoduleSpan_range (f : α → μ) (a : α) :
    f a ∈ Submodule.span ℚ (Set.range f) := by
  apply SetLike.mem_of_subset
  · apply Submodule.subset_span
  · simp

example {f : α → μ} {β : Type} {B : Basis β ℚ (Submodule.span ℚ (Set.range f))}
    (hI : LinearIndependent ℚ (fun a : α => fun b : β => B.repr ⟨f a, in_submoduleSpan_range f a⟩ b)) :
    LinearIndependent ℚ (fun a : α => B.repr ⟨f a, in_submoduleSpan_range f a⟩) := by
  let coeF : (β →₀ ℚ) →ₗ[ℚ] (β → ℚ) :=
      { toFun    := fun g => g,
        map_add' := by intro g h; rfl,
        map_smul' := by intro r g; rfl }
  apply LinearIndependent.of_comp coeF
  simp [linearIndependent_iff, coeF]
  bound
```

**Comment by madvorak** [comment]
Unfortunately `StandardRepr.toMatroid_isBase_X` does not hold with infinitely many rows. It is really dumb I overlooked it. So the most important task, before we can generalize our results to matroids of arbitrary rank, is to find out if `StandardRepr.toMatroid_isRegular_iff_hasTuSigning` can be proved without `StandardRepr.toMatroid_isBase_X`. In particular, the problem is with the direction `S.toMatroid.IsRegular` -> `S.B.HasTuSigning`.

**Comment by Ivan-Sergeyev** [comment]
Here's a summary of what we learned when looking into this.

The end goal of generalizing these lemmas would be to generalize our final results to allow for matroids with infinite ground sets and infinite ranks. However, this generalization would require us to make more fundamental changes than the lemmas mentioned above.

According to the ["Axioms for Infinite Matroids"](https://arxiv.org/pdf/1003.3919) paper, Seymour's theorem does hold in this more general setting, though this was proved in a follow-up work to this paper and we did not look closely at the technical details. It's important to note, however, that generalizing to the "infinite rank" setting would require us to modify the definition of regular matroids to match the one from the paper, replacing linear independence (our implementation, OK for matroids of finite rank) with thin independence (paper, needed for infinite matroids). This modification would cause lots of cascading changes, and it's not worth it to go through with this now, especially since we are focusing on writing the paper. Nevertheless, this could be worth looking into as a continuation of the project after the paper is finished and submitted.

Speculation: It seems to me that the more fundamental changes needed to go to the "infinite rank" setting would automatically resolve the issues with the lemmas mentioned above. More specifically, the propagation of the modifications of the basic definitions like regular matroids would very likely affect these results as well, potentially making them hold if they don't in the current formulation and/or making them easier to prove.
